* v3 temperature (uncompensated ideal biases).
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt
VDD vdd 0 3.3
VRB vrefb 0 1.2
VE  ve 0 0.55
IUIN 0 nu 0
IVIN 0 nv 0.5u
XCELL nu nv out vdd vrefb ve emlcell
VOUT out 0 0.9
.include eml_cell_v3.inc
.control
set filetype=ascii
echo > v3_temp.txt
foreach t -20 0 27 55 85
  option temp = $t
  alter IUIN = 0
  alter IVIN = 0.5u
  op
  let p1 = i(vout)
  set pp1 = $&p1
  alter IUIN = -1u
  op
  let p2 = i(vout)
  set pp2 = $&p2
  alter IUIN = 0
  alter IVIN = 6.5u
  op
  let p3 = i(vout)
  set pp3 = $&p3
  echo $t $pp1 $pp2 $pp3 >> v3_temp.txt
end
echo TEMP_DONE
.endc
.end
