* Does the sky130 NPN actually deliver VT*ln(ratio)?
* Two transdiodes sharing an emitter node, forced collector currents.
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt
VE ve 0 0.55
VCA ca 0 1.6
VCB cb 0 1.6
IA ca a 0.5u
IB cb b 0.5u
XQA a a ve 0 sky130_fd_pr__npn_05v5_W1p00L1p00
XQB b b ve 0 sky130_fd_pr__npn_05v5_W1p00L1p00
.control
set noaskquit
foreach r 1 2 4 8
  alter @IA[dc] = $r*0.5u
  op
  echo RATIO $r
  print v(a)
  print v(b)
end
.endc
.end
