* EML Stage-B: log amp = transdiode NPN in opamp feedback
* Iin -> virtual ground (collector); base grounded; emitter driven by
* opamp output. Vout = -VBE = -(nVT)ln(Iin/Is).
* Opamp is BEHAVIORAL (gain 2e5, +-1.6V rails) -- this deck tests the
* transdiode's ln conformity, not opamp design.
.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* log-decade sweep: Iin = 10^V(px) amperes
VPX  px  0  0
BIN  0 vinv I = {pow(10, V(px))}

XQ1  vinv 0 out 0 sky130_fd_pr__npn_05v5_W1p00L1p00
EOP  out 0 VALUE = {max(min(-2e5*V(vinv), 1.6), -1.6)}

.control
set filetype=ascii
dc VPX -10 -4 0.02
wrdata logamp_vout.csv v(out) v(vinv)
echo DONE
.endc
.end
